US09119868B2
To a solution of 6-(N-(4-amino-2-fluorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (360 mg, 0.7 mmol) in acetonitrile (20 mL) was added hydrobromic acid (5 mL, 40% in water) followed by sodium nitrite (49 mg, 0.77 mmol in 2 mL water) dropwise at 0° C. After stirring for 10 minutes at 0° C., cuprous bromide (115 mg, 0.8 mmol) was added. The mixture was warmed to 80° C. and stirred for 1 hour. The mixture was cooled to room temperature and diluted with water (20 mL). The aqueous layer was extracted with ethyl acetate (3×20 mL), dried over sodium sulfate, filtered, concentrated to dryness, and purified by column chromatography to afford 6-(N-(4-bromo-2-fluorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (240 mg, 0.42 mmol, 60% yield) as an off-white solid. LCMS (m/z, ES+)=575, 577 (M+H+).

reactant | 6-(N-(4-amino-2-fluorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.7 mmol, 360 mg | NC1=CC(=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)F | C26H23F2N3O4S
reactant | hydrobromic acid | 5 mL | Br | BrH
reactant | sodium nitrite | 0.77 mmol, 2 mL, 49 mg | N(=O)[O-].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | 20 mL | O | H2O
product | 6-(N-(4-bromo-2-fluorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.42 mmol, 240 mg, 60% yield | BrC1=CC(=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)F | C26H21BrF2N2O4S
